US06121251
To a 2 liter 3-neck round bottom flask, stirring under a nitrogen atomsphere, was charged 64.9 g (1.0 eq., 0.266 moles) of 6-(3-ethoxyphenyl)-2-ethyl-3(2H)-pyridazinone followed by 250 ml of 48% HBr. The reaction was stirred at 90° C.-95° C. with monitoring by glc. After 7 hr. an additional 100 ml of 48%HBr was added and after an additional 10 hr. 100 ml of 48%HBr was added. After 33 hr. of stirring at 90° C.-95° C. the reaction was cooled to room temperature and quenched by pouring into 500 ml of ice water. An oil formed initially which on standing solidified. The solid was broken into small pieces and vacuum filtered, washed with 3×200 ml water and dried in a vacuum oven at ambient temperature and afforded 47.0 g of 6-(3-hydroxyphenyl)-2-ethyl-3(2H)-pyridazinone as a brown red solid. (81.9% yield).

reactant | 6-(3-ethoxyphenyl)-2-ethyl-3(2H)-pyridazinone | 0.266 moles, 64.9 g, 1.0 eq. | C(C)OC=1C=C(C=CC1)C=1C=CC(N(N1)CC)=O | C14H16N2O2
reactant | HBr | 250 ml | Br | BrH
product | 6-(3-hydroxyphenyl)-2-ethyl-3(2H)-pyridazinone | 47.0 g, 81.9% yield | OC=1C=C(C=CC1)C=1C=CC(N(N1)CC)=O | C12H12N2O2
